US07135466B2
Cyclohexyl N-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2,5-dimethylphenyl}carbamate
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2,5-dimethylaniline (50 mg) was added to toluene (5 ml), and triethylamine (0.5 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (68 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, 1-cyclohexanol (23 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by washing with a 1 N aqueous hydrochloric acid solution, water, and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (58 mg, yield 74%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2,5-dimethylaniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1C)C | C18H19N3O3
reactant | triphosgene | 68 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-cyclohexanol | 23 mg | C1(CCCCC1)O | C6H12O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Cyclohexyl N-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2,5-dimethylphenyl}carbamate | 58 mg, yield 74% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1C)NC(OC1CCCCC1)=O)C | C25H29N3O5
